US04514490
33.5 g of 2-bromotetradecanoic acid ethyl ester and 13.8 g of 3,4-methylenedioxyphenol were dissolved in 100 ml of dimethylformamide, to which was added 13.8 g of anhydrous potassium carbonate while introducing a nitrogen gas and the mixture was stirred at 90° C. for 6 hours. The reaction solution was poured into 300 ml of cold water and extracted with 300 ml of ethyl acetate. The ethyl acetate layer was washed with 300 ml of water and the ethyl acetate was distilled off under reduced pressure. To the residue was added 120 ml of a 10% methanol solution of potassium hydroxide and the mixture was refluxed for 30 minutes. The reaction mixture was poured into 300 ml of a cold 7% aqueous hydrochloric acid solution and extracted with 300 ml of ethyl acetate. The ethyl acetate layer was washed with 300 ml of water and dried with anhydrous sodium sulfate. After removing the sodium sulfate by filtration, the ethyl acetate was distilled off under reduced pressure and to the resulting residue was added 70 ml of acetonitrile to crystallize. The crystals thus deposited were collected by filtration to obtain 40 g of 2-(3,4-methylenedioxyphenoxy)tetradecanoic acid having a melting point of 70° to 72° C.

reactant | 2-bromotetradecanoic acid ethyl ester | 33.5 g | C(C)OC(C(CCCCCCCCCCCC)Br)=O | C16H31BrO2
reactant | 3,4-methylenedioxyphenol | 13.8 g | C1OC=2C=C(C=CC2O1)O | C7H6O3
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(3,4-methylenedioxyphenoxy)tetradecanoic acid | 40 g | C1OC=2C=C(OC(C(=O)O)CCCCCCCCCCCC)C=CC2O1 | C21H32O5
